US06797823B1
N-{4-[(6,7-Dimethoxy-4-quinazolinyl)oxy]-2-methylphenyl}-N′-(2-methoxyphenyl)urea
4-[(6,7-Dimethoxy-4-quinazolinyl)oxy]-2-methyl-aniline (50 mg) was dissolved in chloroform (3 ml), and 2-methoxyphenyl isocyanate (26 μl) was then added to the solution. The mixture was heated under reflux overnight. The precipitated crystal was collected by filtration and was washed to give 70 mg (yield 95%) of the title compound.

reactant | 4-[(6,7-Dimethoxy-4-quinazolinyl)oxy]-2-methyl-aniline | 50 mg | COC=1C=C2C(=NC=NC2=CC1OC)OC1=CC(=C(N)C=C1)C | C17H17N3O3
reactant | 2-methoxyphenyl isocyanate | 26 μl | COC1=C(C=CC=C1)N=C=O | C8H7NO2
solvent | chloroform | 3 ml | C(Cl)(Cl)Cl | CHCl3
product | N-{4-[(6,7-Dimethoxy-4-quinazolinyl)oxy]-2-methylphenyl}-N′-(2-methoxyphenyl)urea | 70 mg, yield 95% | COC=1C=C2C(=NC=NC2=CC1OC)OC1=CC(=C(C=C1)NC(=O)NC1=C(C=CC=C1)OC)C | C25H24N4O5
